US07214700B2
2-(3,5-Dimethyl-1H-pyrrol-2-yl)-N-(3-fluorophenyl)-2-(2-oxo-1,2-dihydroindol-3-ylidene)-acetamide
(3,5-Dimethyl-1H-pyrrol-2-yl)-(2-oxo-1,2-dihydroindol-3-ylidene)-acetic acid (90 mg) was reacted with 3-fluoroaniline (35 mg) using method B to give 25 mg (21%) of the title compound.

reactant | (3,5-Dimethyl-1H-pyrrol-2-yl)-(2-oxo-1,2-dihydroindol-3-ylidene)-acetic acid | 90 mg | CC1=C(NC(=C1)C)C(C(=O)O)=C1C(NC2=CC=CC=C12)=O | C16H14N2O3
reactant | 3-fluoroaniline | 35 mg | FC=1C=C(N)C=CC1 | C6H6FN
product | 2-(3,5-Dimethyl-1H-pyrrol-2-yl)-N-(3-fluorophenyl)-2-(2-oxo-1,2-dihydroindol-3-ylidene)-acetamide | 25 mg, 21% | CC1=C(NC(=C1)C)C(C(=O)NC1=CC(=CC=C1)F)=C1C(NC2=CC=CC=C12)=O | C22H18FN3O2
